US04770981
Forty grams of 4-sulfobenzotriazole and 8.0 g of sodium hydroxide were added to and dissolved in 500 ml of an ethanol-water (1:1) mixture liquid containing 40 g of polyvinyl pyrrolidone. To this solution were added dropwise 33 ml of a five-normal silver nitrate solution. At this time a five-normal sodium hydroxide solution also was simultaneouly added dropwise to maintain the pH at 7 to 8. To this solution, after being stirred for an hour at room temperature, was added water to make the whole quantity thereof 600 ml, whereby a silver 4-sulfobenzotriazole solution was obtained.

reactant | 4-sulfobenzotriazole | Forty grams | S(=O)(=O)(O)C1=CC=CC=2NN=NC21 | C6H5N3O3S
reactant | sodium hydroxide | 8.0 g | [OH-].[Na+]
reactant | silver nitrate | 33 ml | [N+](=O)([O-])[O-].[Ag+]
reactant | water | O | H2O
solvent | ethanol water | 500 ml | C(C)O.O
product | silver 4-sulfobenzotriazole | S(=O)(=O)(O)C1=CC=CC=2NN=NC21.[Ag] | InChI=1S/C6H5N3O3S.Ag/c10-13(11,12)5-3-1-2-4-6(5)8-9-7-4;/h1-3H,(H,7,8,9)(H,10,11,12);
